US09085555B2
A. (1R,3S,5R)-3-Hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester
To a solution of (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester (0.5 g, 2.2 mmol) in dry THF (10 mL), cooled to 0° C., was added under an argon atmosphere dropwise a 1M solution of boran-tetrahydrofuran-complex (4.40 mL, 4.40 mmol). The reaction mixture was kept at 0° C. for an additional 2 h and then allowed to warm up to RT overnight. The reaction was quenched by careful addition of water and subsequently EtOAc. The organic layer was subsequently washed with saturated aqueous solutions of NaCl, NaHCO3, water and NaCl. The organic phase was dried (phase separator) and concentrated to give the title compound as a colorless oil. MS (LC-MS): 214.0 [M+H]+; tR (HPLC conditions k): 2.99 min. The material thus obtained was used in the next step without further purification.

reactant | (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester | 2.2 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)O | C11H17NO4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 4.40 mmol, 4.40 mL | O1CCCC1 | C4H8O
product | (1R,3S,5R)-3-Hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1CO | C11H19NO3
